US05202315
A. Preparation of ethyl (Z)-2-(methoxyimino)-2-[2-(triphenylmethyl) aminothiazol-4-yl]acetate
To ethyl (Z)-2-(hydroxyimino)-2-[2-(triphenylmethyl)aminothiazol-4-yl]acetate(46 g) were added iodo methane(28.4 g), potassium carbonate (27.6 g) and dimethylsulfoxide(500 ml), and the mixture was stirred for 5 hours at room temperature. After ethyl ether(2 l) was added to the reaction mixture, the mixture was washed 5 times with distilled water(500 ml). The separated organic layer was dehydrated with anhydrous magnesium sulfate, filtered, and then concentrated. The residue was chromatographed over silica gel to give the above-indicated compound (35.2 g) as a pale yellow solid.

reactant | ethyl (Z)-2-(hydroxyimino)-2-[2-(triphenylmethyl)aminothiazol-4-yl]acetate | 46 g | O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H23N3O3S
reactant | iodo methane | 28.4 g | IC | CH3I
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 500 ml | CS(=O)C | C2H6OS
solvent | ethyl ether | 2 l | C(C)OCC | C4H10O
product | ethyl (Z)-2-(methoxyimino)-2-[2-(triphenylmethyl) aminothiazol-4-yl]acetate | 35.2 g | CO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H25N3O3S
